US07456169B2
1-Bromo-2-methoxy-3-nitro-benzene
2-Bromo-6-nitrophenol (5.1 g, 23.4 mmol) was dissolved in DMF (60 mL), then 95% NaH (900 mg, 35.6 mmol) was added in a few portions, followed by the addition of iodomethane (3.0 mL, 6.8 g, 48.5 mmol). The reaction was stirred at room temperature overnight, then heated at 50° C. for 3 hours. The reaction was cooled, poured into water, and the solids filtered off and dried. The product (5.5 g, 100%) was recovered as tan solids. 1H NMR (300 MHz, DMSO-d6) δ 8.02 (dd, J=8.1, 1.7 Hz, 1H), 7.96 (dd, J=8.1, 1.7 Hz, 1H), 7.83 (dd, 8.1, 8.1 Hz, 1H), 3.92 (s, 3H).

reactant | 2-Bromo-6-nitrophenol | 23.4 mmol, 5.1 g | BrC1=C(C(=CC=C1)[N+](=O)[O-])O | C6H4BrNO3
reactant | NaH | 35.6 mmol, 900 mg | [H-].[Na+]
reactant | iodomethane | 48.5 mmol, 3.0 mL, 6.8 g | IC | CH3I
reactant | water | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 1-Bromo-2-methoxy-3-nitro-benzene | BrC1=C(C(=CC=C1)[N+](=O)[O-])OC | C7H6BrNO3
